US07750154B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 13 which is concerned with the preparation of starting materials 3-hydroxyazetidine was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(3-hydroxyazetidin-1-yl)-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.67 (m, 2H), 2.28 (s, 3H), 2.84 (m, 1H), 3.79 (m, 2H), 4.29 (t, 2H), 4.63 (m, 1H), 5.82 (d, 1H), 6.48 (m, 2H), 7.28 (d, 1H), 7.56 (d, 1H), 7.95 (s, 1H), 8.04 (d, 1H), 8.37 (s, 1H), 9.87 (s, 1H); Mass Spectrum: M+Na+ 433.

reactant | 3-hydroxyazetidine | OC1CNC1 | C3H7NO
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(3-hydroxyazetidin-1-yl)-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)N1CC(C1)O)[N+](=O)[O-])=O)C | C21H22N4O5
